US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-2-ethyl-4-methyl-1,3-oxazole-5-carboxamide
In the same manner as in Example 259 and using 2-ethyl-4-methyl-1,3-oxazole-5-carboxylic acid (230 mg, 1.5 mmol), tetrahydrofuran (6 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (520 μL, 6.0 mmol), N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (400 mg, 1.2 mmol) and N,N-dimethylacetamide (10 mL) as starting materials, the title compound (400 mg, 70%) was obtained as a white solid. melting point 228° C.

reactant | 2-ethyl-4-methyl-1,3-oxazole-5-carboxylic acid | 1.5 mmol, 230 mg | C(C)C=1OC(=C(N1)C)C(=O)O | C7H9NO3
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 6.0 mmol, 520 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 1.2 mmol, 400 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-2-ethyl-4-methyl-1,3-oxazole-5-carboxamide | 400 mg, 70% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=C(N=C(O2)CC)C)F)C1 | C23H21FN6O4
